US05153210
A mixture of ethyl 3-(4-acetonylphenyl)-2-chloropropionate, ethylene ketal (4.86 g), thiourea (1.19 g) and sodium acetate (1.29 g) in 2-methoxyethanol (25 ml) was stirred and heated at 100 ° C. for 16 h. The solvent was evaporated and the residue was diluted with 50:50 water/hexane (50 ml). The resulting solid was filtered, dried and purified by chromatography on silica gel. Elution with methanol:chloroform (4:96) gave 5-(4-acetonylbenzyl)-2-iminothiazolidine-4-one as a white solid, mp 196°-198° C.

reactant | ethyl 3-(4-acetonylphenyl)-2-chloropropionate | C(C(=O)C)C1=CC=C(C=C1)CC(C(=O)OCC)Cl | C14H17ClO3
reactant | thiourea | 1.19 g | NC(=S)N | CH4N2S
reactant | sodium acetate | 1.29 g | C(C)(=O)[O-].[Na+]
solvent | 2-methoxyethanol | 25 ml | COCCO | C3H8O2
product | 5-(4-acetonylbenzyl)-2-iminothiazolidine-4-one | C(C(=O)C)C1=CC=C(CC2C(NC(S2)=N)=O)C=C1 | C13H14N2O2S
